US07544812B2
A mixture of 2-cyclopentyloxy-3-(4-hydroxy-phenyl)-propionic acid cyclopentyl ester(0.090 g, 0.283 mmol), toluene-4-sulfonic acid 2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethyl ester (0.140 g, 0.307 mmol) and Cs2CO3 (0.138 g, 0.423 mmol) in DMF (10 mL) was heated to 65° C. under N2 for 16 h. The reaction was cooled and quenched with 1 N HCl (10 mL) and worked up extractively with Et2O and water. The organic layer was dried (MgSO4) and the solvent removed in vacuo to afford crude product that was purified by flash chromatography using 3:1 hexanes:acetone to afford 0.108 g (64%) 2-cyclopentyloxy-3-(4-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-propionic acid cyclopentyl ester. 1H NMR. MS (ES+) Calc'd for C33H42N2O5F3 (M+1) 603. Found m/z 603 (100%).

reactant | 2-cyclopentyloxy-3-(4-hydroxy-phenyl)-propionic acid cyclopentyl ester | 0.283 mmol, 0.090 g | C1(CCCC1)OC(C(CC1=CC=C(C=C1)O)OC1CCCC1)=O | C19H26O4
reactant | toluene-4-sulfonic acid 2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethyl ester | 0.307 mmol, 0.140 g | CN1C(N(CC1CCOS(=O)(=O)C1=CC=C(C=C1)C)CC1=CC=C(C=C1)C(F)(F)F)=O | C21H23F3N2O4S
reactant | Cs2CO3 | 0.423 mmol, 0.138 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-cyclopentyloxy-3-(4-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-propionic acid cyclopentyl ester | 0.108 g, 64% | C1(CCCC1)OC(C(CC1=CC=C(C=C1)OCCC1N(C(N(C1)CC1=CC=C(C=C1)C(F)(F)F)=O)C)OC1CCCC1)=O | C33H41F3N2O5
